US08049006B2
Methyl 5-(aminosulfonyl)-2-chlorobenzoate (Compound S54)
To methyl 5-amino-2-chlorobenzoate (16.2 g) in concentrated hydrochloric acid (40 ml)/acetic acid (120 ml) suspension, a sodium nitrite (7.6 g) aqueous solution (20 ml) was added under ice cooling and the mixture was stirred at that temperature for 45 minutes. Next, the inside temperature of the reaction vessel was cooled to −5° C., copper (II) chloride 2-hydrate (3.7 g) and a 21% sulfur dioxide in acetic acid solution (60 ml) were added, and the mixture was raised to room temperature and stirred at 12 hours. Under ice cooling, distilled water was added to the reaction solution, the mixture was stirred at that temperature for 30 minutes, and the precipitate was collected by filtration. The filtrate was dissolved in tetrahydrofuran (50 ml), 28% ammonia water (10 ml) was added under ice cooling, and the mixture was stirred at that temperature for 15 minutes. The tetrahydrofuran was distilled off in vacuo, then ethyl acetate/hexane was added. The precipitate was collected by filtration to obtain the title compound (10.9 g).

reactant | methyl 5-amino-2-chlorobenzoate | 16.2 g | NC=1C=CC(=C(C(=O)OC)C1)Cl | C8H8ClNO2
reactant | sodium nitrite | 7.6 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | hydrochloric acid | 40 ml | Cl | ClH
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | Methyl 5-(aminosulfonyl)-2-chlorobenzoate | 10.9 g | NS(=O)(=O)C=1C=CC(=C(C(=O)OC)C1)Cl | C8H8ClNO4S
